US06699296B2
4-[3-(2,5-diaminophenyl)allylamino]aniline;
4-[3-(2,5-diaminophenyl)allylamino]-2-(2-hydroxyethyl)-aniline; 4-[3-(2,5-diaminophenyl)allylamino]-5-(2-hydroxyethyl)aniline; 4-[3-(2,5-diaminophenyl)allylamino]-2-chloroaniline; 4-[3-(2,5-diaminophenyl)allylamino]-2-methylaniline; 4-[3-(2,5-diaminophenyl)allylamino]-3-(2-hydroxyethyl)aniline; 4-[3-(2,5-diaminophenyl)allylamino]-3-chloroaniline; 4-[3-(2,5-diaminophenyl)allylamino]-3-methylaniline; 4-{3-[2,5-diamino-3-(2-hydroxyethyl)phenyl]allylamino}-aniline; 4-[3-(2,5-diamino-3-chlorophenyl)allylamino]aniline; 4-[3-(2,5-diamino-3-methylphenyl)allyl]-amino]aniline; 4-[3-(2,5-diamino-6-methylphenyl)allylamino]aniline; 4-{3-[2,5-diamino-4-(2-hydroxyethyl)phenyl]allylamino}aniline; 4-[3-(2,5-diamino-4-chlorophenyl)allylamino]aniline; 4-[3-(2,5-diamino-4-methylphenyl)allylamino]aniline; 4-[3-(N2,N2-bis-methyl-2,5-diaminophenyl)allylamino]-2-aniline; 4-{3-[N2,N2-bis-(2-hydroxyethyl)-2,5-diaminophenyl]allylamino}-2-aniline; 4-[3-(N5,N5-bis-methyl-2,5-diaminophenyl)allylamino]-2-aniline; 4-{3-[N5,N5-bis-(2-hydroxyethyl)-2,5-diaminophenyl]-allylamino}-2-aniline; 4-[3-(2,5-diaminophenyl)allylamino]-2-N,N′-bis-methylaniline; 4-[3-(2,5-diaminophenyl)allylamino]-2-N,N′-bis-(2-hydroxyethyl)aniline or a physiologically tolerated salt thereof.

reactant | 4-[3-(2,5-diaminophenyl)allylamino]-2-(2-hydroxyethyl)-aniline | NC1=C(C=C(C=C1)N)C=CCNC1=CC(=C(N)C=C1)CCO | C17H22N4O
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-5-(2-hydroxyethyl)aniline | NC1=C(C=C(C=C1)N)C=CCNC1=CC=C(N)C=C1CCO | C17H22N4O
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-2-chloroaniline | NC1=C(C=C(C=C1)N)C=CCNC1=CC(=C(N)C=C1)Cl | C15H17ClN4
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-2-methylaniline | NC1=C(C=C(C=C1)N)C=CCNC1=CC(=C(N)C=C1)C | C16H20N4
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-3-(2-hydroxyethyl)aniline | NC1=C(C=C(C=C1)N)C=CCNC1=C(C=C(N)C=C1)CCO | C17H22N4O
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-3-chloroaniline | NC1=C(C=C(C=C1)N)C=CCNC1=C(C=C(N)C=C1)Cl | C15H17ClN4
reactant | 4-[3-(2,5-diaminophenyl)allylamino]-3-methylaniline | NC1=C(C=C(C=C1)N)C=CCNC1=C(C=C(N)C=C1)C | C16H20N4
reactant | 4-{3-[2,5-diamino-3-(2-hydroxyethyl)phenyl]allylamino}-aniline | NC1=C(C=C(C=C1CCO)N)C=CCNC1=CC=C(N)C=C1 | C17H22N4O
reactant | 4-[3-(2,5-diamino-3-chlorophenyl)allylamino]aniline | NC1=C(C=C(C=C1Cl)N)C=CCNC1=CC=C(N)C=C1 | C15H17ClN4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-[3-(2,5-diamino-6-methylphenyl)allylamino]aniline | NC1=C(C(=C(C=C1)N)C)C=CCNC1=CC=C(N)C=C1 | C16H20N4
reactant | 4-{3-[2,5-diamino-4-(2-hydroxyethyl)phenyl]allylamino}aniline | NC1=C(C=C(C(=C1)CCO)N)C=CCNC1=CC=C(N)C=C1 | C17H22N4O
reactant | 4-[3-(2,5-diamino-4-chlorophenyl)allylamino]aniline | NC1=C(C=C(C(=C1)Cl)N)C=CCNC1=CC=C(N)C=C1 | C15H17ClN4
reactant | 4-[3-(2,5-diamino-4-methylphenyl)allylamino]aniline | NC1=C(C=C(C(=C1)C)N)C=CCNC1=CC=C(N)C=C1 | C16H20N4
product | 4-[3-(2,5-diaminophenyl)allylamino]aniline | NC1=C(C=C(C=C1)N)C=CCNC1=CC=C(N)C=C1 | C15H18N4
